US07829707B2
(a) Ethyl 3-[(1H-indol-3-ylmethyl)amino]-1H-pyrrole-2-carboxylate
A reaction mixture of 3-amino-1H-pyrrole-2-carboxylic acid ethyl ester (0.075 g, 0.49 mmol), indole-3-carboxaldehyde (0.085 g, 0.58 mmol), NaCNBH3 (0.031 g, 0.49 mmol) and HOAc (0.056 mL, 0.97 mmol) in methanol (3 mL) was stirred at r.t. overnight. The mixture was concentrated in vacuo and the crude product-mixture was used in the next step without further purification.

reactant | 3-amino-1H-pyrrole-2-carboxylic acid ethyl ester | 0.49 mmol, 0.075 g | C(C)OC(=O)C=1NC=CC1N | C7H10N2O2
reactant | indole-3-carboxaldehyde | 0.58 mmol, 0.085 g | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | NaCNBH3 | 0.49 mmol, 0.031 g | [BH3-]C#N.[Na+]
reactant | HOAc | 0.97 mmol, 0.056 mL | CC(=O)O | C2H4O2
solvent | methanol | 3 mL | CO | CH4O
product | Ethyl 3-[(1H-indol-3-ylmethyl)amino]-1H-pyrrole-2-carboxylate | N1C=C(C2=CC=CC=C12)CNC1=C(NC=C1)C(=O)OCC | C16H17N3O2
